US07795236B2
2-Benzyloxybenzonitrile
The title compound was prepared in a similar manner to that described in Reference Example 20 using 2-cyanophenol instead of tert-butyl N-(3′-hydroxybiphenyl-4-ylmethyl)-carbamate and benzyl bromide instead of 1-bromopropane.

reactant | 2-cyanophenol | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-Benzyloxybenzonitrile | C(C1=CC=CC=C1)OC1=C(C#N)C=CC=C1 | C14H11NO
